US08198269B2
Synthesis of N,N-di-(tert-butyloxycarbonyl)-[(4aR,6R,8aS)-8a-(5-bromo-2-fluorophenyl)-6-benzyloxymethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine
Di-tert-butyl dicarbonate (113 mg) and DMAP (63.0 mg) were added to a solution of (4aR,6R,8aS)-6-benzyloxymethyl-8a-(5-bromo-2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine obtained by the method of Preparation Example 17-(3) (80.0 mg) in THF (5.0 ml). The mixture was stirred at room temperature overnight, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (95.0 mg).

reactant | Di-tert-butyl dicarbonate | 113 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (4aR,6R,8aS)-6-benzyloxymethyl-8a-(5-bromo-2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine | C(C1=CC=CC=C1)OC[C@H]1C[C@H]2CSC(=N[C@]2(CO1)C1=C(C=CC(=C1)Br)F)N | C21H22BrFN2O2S
catalyst | DMAP | 63.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
product | N,N-di-(tert-butyloxycarbonyl)-[(4aR,6R,8aS)-8a-(5-bromo-2-fluorophenyl)-6-benzyloxymethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine | 95.0 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=N[C@]2(CO[C@H](C[C@H]2CS1)COCC1=CC=CC=C1)C1=C(C=CC(=C1)Br)F | C31H38BrFN2O6S
